US08207180B2
N-Benzhydrylidene-N′-isoquinolin-5-yl-hydrazine (4A)
To a suspension of 5-bromoisoquinoline (32 mmol), benzophenone hydrazone (32 mmol), BINAP (0.32 mmol) and palladium acetate (0.32 mmol) in dry and degassed toluene (15 mL), sodium tert-butoxide (44.9 mmol) was added together with 16 mL of dry, degassed toluene. The mixture was heated at 80° C. for 4 h, cooled to rt and filtered through a celite pad, rinsing with diethyl ether. The crude product was purified by semi -automatic liquid chromatography on silica gel (eluant: hexane/AcOEt 7:3) affording the title compound (65% yield). ESI (+) MS: m/z 324 (MH+). 1H NMR: 7.36 (d, J=6.10, 1H), 7.38-7.45 (m, 2H), 7.48-7.53 (m, 2H), 7.58 (m, 8H), 7.88 (d, J=6.34, 1H), 8.39 (d, J=5.97, 1H), 8.76 (s, 1H), 9.24 (s, 1H).

reactant | 5-bromoisoquinoline | 32 mmol | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | benzophenone hydrazone | 32 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | BINAP | 0.32 mmol | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 44.9 mmol | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.32 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-Benzhydrylidene-N′-isoquinolin-5-yl-hydrazine | 65% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=C2C=CN=CC2=CC=C1 | C22H17N3
